US06573270B1
4-(tert-butyl)-N-{[4-(tert-butyl)phenyl]sulfonyl}-N-[1-methyl-4-(4-methylphenyl)-3-(2-phenoxyethoxy)-1H-pyrazol-5-yl]benzenesulfonamide
To 1-methyl-4-(4-methylphenyl)-3-(2-phenoxyethoxy)-1H-pyrazol-5-amine (Preparation 2) (105 mg) in dichloromethane (5 ml) at room temperature was added 4-tert-butylbenzenesulfonylchloride (265 mg), tetrabutylammonium hydrogen sulfate (28 mg) and potassium hydroxide (265 mg). The mixture was sonicated for 3 hrs. The reaction was diluted with water (10 ml) and extracted with ethyl acetate (10 ml). The organic fraction was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography silica (10 g) eluted with dichloromethane to yield the title compound as a white solid (101 mg).

reactant | 1-methyl-4-(4-methylphenyl)-3-(2-phenoxyethoxy)-1H-pyrazol-5-amine | 105 mg | CN1N=C(C(=C1N)C1=CC=C(C=C1)C)OCCOC1=CC=CC=C1 | C19H21N3O2
reactant | 4-tert-butylbenzenesulfonylchloride | 265 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | potassium hydroxide | 265 mg | [OH-].[K+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulfate | 28 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 10 ml | O | H2O
product | 4-(tert-butyl)-N-{[4-(tert-butyl)phenyl]sulfonyl}-N-[1-methyl-4-(4-methylphenyl)-3-(2-phenoxyethoxy)-1H-pyrazol-5-yl]benzenesulfonamide | 101 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=C(C(=NN1C)OCCOC1=CC=CC=C1)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C39H45N3O6S2
